US04207326
Reaction of 3,5-dimethyl-1-tetradecyl-pyrazole with 4-nitrobenzyl bromide yields 3,5-dimethyl-2(4-nitrobenzyl)-1-tetradecyl-pyrazolium bromide; m.p. 159°-161° C.

reactant | 3,5-dimethyl-1-tetradecyl-pyrazole | CC1=NN(C(=C1)C)CCCCCCCCCCCCCC | C19H36N2
reactant | 4-nitrobenzyl bromide | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
product | 3,5-dimethyl-2(4-nitrobenzyl)-1-tetradecyl-pyrazolium bromide | [Br-].CC=1N([N+](=C(C1)C)CCCCCCCCCCCCCC)CC1=CC=C(C=C1)[N+](=O)[O-] | InChI=1S/C26H42N3O2.BrH/c1-4-5-6-7-8-9-10-11-12-13-14-15-20-27-23(2)21-24(3)28(27)22-25-16-18-26(19-17-25)29(30)31;/h16-19,21H,4-15,20,22H2,1-3H3;1H/q+1;/p-1
